US04678855
Preparation of 4-(2-hydroxyethylthio)-3-fluorobenzenesulfonamide
Sodium hydride (1.11 g, 50% oil dispersion, 0.023 mol) was washed with petroleum ether then suspended in freshly degassed DMF (50 ml). 2-Mercaptoethanol (1.8 g, 0.023 mol) was added dropwise under nitrogen. When gas evolution ceased, N,N-Dimethyl-N'-(3,4-difluorobenzenesulfonyl)formamidine (5 g, 0.02 mol) was added and the mixture was heated in an oil bath about 2 hours (80° C.). DMF was removed in vacuo and the residue was treated with 100 ml of 10% NaOH. After an additional hour of stirring the solution was acidified with concentrated HCl and extracted with ethylacetate (2×100 ml), and dried over anhydrous magnesium sulfate. Removal of solvent left 3 g of a white solid which when recrystallized from butyl chloride had m.p.=109°-111° C.

reactant | Sodium hydride | 0.023 mol, 1.11 g | [H-].[Na+]
reactant | 2-Mercaptoethanol | 0.023 mol, 1.8 g | SCCO | C2H6OS
reactant | N,N-Dimethyl-N'-(3,4-difluorobenzenesulfonyl)formamidine | 0.02 mol, 5 g | CN(C=NS(=O)(=O)C1=CC(=C(C=C1)F)F)C | C9H10F2N2O2S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(2-hydroxyethylthio)-3-fluorobenzenesulfonamide | OCCSC1=C(C=C(C=C1)S(=O)(=O)N)F | C8H10FNO3S2
